US04065473
Chloromethylation of N-Acetylhomoveratrylamine
A sample of this material was recrystallized from ethyl acetate and obtained as clusters of sword-shaped crystals, m.p. 151°-153° dec with evolution of HCl. This substance is the hydrochloride of N-(6-chloromethyl-3,4-dimethoxyphenethyl)acetamide.

reactant | hydrochloride | Cl | ClH
reactant | N-(6-chloromethyl-3,4-dimethoxyphenethyl)acetamide | ClCC1=CC(=C(C=C1CCNC(C)=O)OC)OC | C13H18ClNO3
product | N-Acetylhomoveratrylamine | C(C)(=O)NCCC1=CC(OC)=C(OC)C=C1 | C12H17NO3
